US07592337B2
Tin(II) chloride dihydrate (6.77 g, 30.0 mmol) and 2-(2-methoxy-4-nitrophenyl)pyridine (2.30 g, 10.0 mmol) were combined in MeOH (100 mL) and stirred at reflux for 18 h. The reaction mixture was then cooled to RT and concentrated in vacuo. The residue was then partitioned with EtOAc (200 mL) and 1N aqueous NaOH (100 mL). The aqueous layer was washed with EtOAc (3×75 mL), and the combined EtOAc layers were back-extracted with H2O (100 mL), dried (MgSO4), filtered, and concentrated in vacuo. The resulting residue was purified by SiO2 chromatography, eluting with 2:1 EtOAc:hexanes to afford 3-methoxy4-pyridin-2-ylaniline as an amber oil. 1H-NMR (CDCl3, 300 MHz) δ 8.63 (m, 1H), 7.78 (d, 1H), 7.57-7.67 (m, 2H), 7.04-7.13 (m, 1H), 6.34-6.41(dd, 1H), 6.26 (d, 1H), 3.72-3.92 (s, 2H), 3.72 (s, 3H).

reactant | Tin(II) chloride dihydrate | 30.0 mmol, 6.77 g | O.O.[Sn](Cl)Cl
reactant | 2-(2-methoxy-4-nitrophenyl)pyridine | 10.0 mmol, 2.30 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=CC=C1 | C12H10N2O3
solvent | MeOH | 100 mL | CO | CH4O
product | 3-methoxy4-pyridin-2-ylaniline | COC=1C=C(N)C=CC1C1=NC=CC=C1 | C12H12N2O
